US06875781B2
6-(5-Chloro-2-methoxy-phenyl)-N*2*-p-tolyl-pyridine-2,4-diamine
A mixture of 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine, prepared in Example 1, (120 mg, 0.45 mmol) and p-tolylamine (1.0 g, 9.3 mmol) was heated at 190° C. for 45 minutes. After cooling to room temperature, the mixture was treated with hydrochloric acid (1 M, 50 ml). The mixture was extracted with ethyl acetate (50 ml). The organic extract was dried over magnesium sulfate and purified by flash chromatography on silica gel column eluting with ethyl acetate-hexane (1:4 followed by 1:1) to give the title compound (120 mg, 79% yield). 1H NMR (acetone-d6) δ 2.27 (s, 3H, CH3), 3.89 (s, 3H, CH3), 5.30 (d, 2H, J=6.4 Hz, NH2), 6.11 (d, 1H, J=1.7 Hz, Ar), 6.89 (d, 1H, J=1.7 Hz, Ar), 7.07 (d, 2H, J=8.3 Hz, Ar), 7.10 (d, 1H, J=8.8 Hz, Ar), 7.32 (dd, 1H, J=8.8 Hz, J=2.8 Hz, Ar), 7.51-7.54 (m, 2H, Ar), 7.68 (s, 1H, NH), 7.99 (d, 1H, J=2.8 Hz, Ar).

reactant | 2-chloro-6-(5-chloro-2-methoxy-phenyl)-pyridin-4-yl-amine | ClC1=NC(=CC(=C1)N)C1=C(C=CC(=C1)Cl)OC | C12H10Cl2N2O
reactant | p-tolylamine | 9.3 mmol, 1.0 g | CC=1C=CC(=CC1)N | C7H9N
solvent | hydrochloric acid | 1 M, 50 ml | Cl | ClH
product | 6-(5-Chloro-2-methoxy-phenyl)-N*2*-p-tolyl-pyridine-2,4-diamine | 120 mg, 79% yield | ClC=1C=CC(=C(C1)C1=CC(=CC(=N1)NC1=CC=C(C=C1)C)N)OC | C19H18ClN3O
